US07915443B2
Methyl 3-{4-[N-({6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}propanoate
In a manner similar to that described in Example 480 (step 6), 6-Amino-5-{3-[(2,5-dimethyl-2H-pyrazole-3-carbonyl)-amino]-phenylethynyl}-nicotinic acid (0.250 g, 0.666 mmol) and methyl 3-(4-(S-methylsulfonimidoyl)-phenyl)propanoate (0.160 g, 0.666 mmol) were reacted to give the title compound (0.167 g, 42%).

reactant | 6-Amino-5-{3-[(2,5-dimethyl-2H-pyrazole-3-carbonyl)-amino]-phenylethynyl}-nicotinic acid | 0.666 mmol, 0.250 g | NC1=NC=C(C(=O)O)C=C1C#CC1=CC(=CC=C1)NC(=O)C=1N(N=C(C1)C)C | C20H17N5O3
reactant | methyl 3-(4-(S-methylsulfonimidoyl)-phenyl)propanoate | 0.666 mmol, 0.160 g | CS(=O)(=N)C1=CC=C(C=C1)CCC(=O)OC | C11H15NO3S
product | Methyl 3-{4-[N-({6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}propanoate | 0.167 g, 42% | NC1=C(C=C(C=N1)C(=O)N=S(=O)(C)C1=CC=C(C=C1)CCC(=O)OC)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C | C31H30N6O5S
